US06900345B2
3-Hydroxy-3-methylpyrrolidine-1-carboxylic Acid Tert-butyl Ester
3-Oxo-pyrrolidine-1-carboxylic acid tert-butyl ester [Hofmann, J. Agric. Food Chem., 46, 3902 (1998)] (0.322 g, 1.74 mmol) was dissolved in diethyl ether (5 ml), cooled with an ice bath, and treated with methylmagnesium bromide (3M in ether, 0.64 ml, 1.91 mmol). The reaction was stirred for 1 h then more methylmagnesium bromide added, and the mixture stirred for 63 h. The reaction was quenched with aqueous ammonium chloride and extracted with diethyl ether (x3). The combined organic extracts were dried and evaporated. The residue was purified by flash chromatography, eluting with 0-50% ethyl acetate in petroleum ether, to give the title compound as a sticky off-white solid (0.129 g, 37%); NMR (CDCl3) 1.41 (3H, s), 1.46 (9H, s), 1.61 (1H, s), 1.79-1.92 (2H, m), and 3.17-3.58 (4H, m).

reactant | 3-Oxo-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.74 mmol, 0.322 g | C(C)(C)(C)OC(=O)N1CC(CC1)=O | C9H15NO3
reactant | methylmagnesium bromide | 1.91 mmol, 3M, 0.64 ml | C[Mg]Br
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | 3-Hydroxy-3-methylpyrrolidine-1-carboxylic Acid Tert-butyl Ester | 0.129 g, 37% | C(C)(C)(C)OC(=O)N1CC(CC1)(C)O | C10H19NO3
